US05902867
1. Synthesis of 2-Methylindene
50 ml of diethyl ether was added to 2.5 g of magnesium. A solution of 14.3 g of methyliodide in 50 ml of diethyl ether was added in 1 hour, with cooling with the aid of a water bath. Then the reaction mixture was stirred for 30 minutes at room temperature. A solution of 13.2 g of 2-indanone in 40 ml of diethyl ether was then added to this reaction mixture, followed by 30 minutes' stirring. 100 ml of water was then added. The organic layer was separated from the water layer. This water layer was washed twice, using 50 ml of dichloromethane, after which the combined organic layers were dried over magnesium sulphate. The filtrate obtained after removal of the drying agent through filtration was concentrated through evaporation to yield 14.0 g of residue. This residue was dissolved in 100 ml of toluene, after which 4 drops of concentrated sulphuric acid were added and the resulting reaction mixture was refluxed for 30 minutes. After cooling to room temperature, the mixture was washed once using 50 ml of water. The toluene was removed through evaporation, after which the residue was distilled under a vacuum. Yield: 4.0 g of 2-methylindene (30%).

reactant | magnesium | 2.5 g | [Mg] | Mg
reactant | methyliodide | 14.3 g | CI | CH3I
reactant | 2-indanone | 13.2 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-Methylindene | 14.0 g | CC=1CC2=CC=CC=C2C1 | C10H10
